US07691843B2
To a stirred solution of 4-nitro-2-trifluoromethoxyanisole (500 mg, 2.11 mmol) in MeOH (8.0 mL) at room temperature was added aqueous HCl solution (1.0 mL, 3.0 M) followed by 10% Pd/C (80 mg). The reaction mixture was stirred under H2 atmosphere for 17 h, filtered through a pad of celite and concentrated to give 4-amino-2-trifluoromethoxyanisole as a hydrochloride salt (500 mg). The product was used without further purification.

reactant | 4-nitro-2-trifluoromethoxyanisole | 2.11 mmol, 500 mg | [N+](=O)([O-])C1=CC(=C(C=C1)OC)OC(F)(F)F | C8H6F3NO4
reactant | HCl | 3.0 M, 1.0 mL | Cl | ClH
solvent | MeOH | 8.0 mL | CO | CH4O
catalyst | Pd/C | 80 mg | [Pd] | Pd
product | 4-amino-2-trifluoromethoxyanisole | NC1=CC(=C(C=C1)OC)OC(F)(F)F | C8H8F3NO2
